US03935311
3-Ethylcarbamoyloxy-5-ethylcarbamoyloxymethyl-2-methylpyridine (No. 122)
To a solution of 0.9 g. of 5-hydroxymethyl-2-methyl-3-pyridinol hydrochloride in 10 ml. of pyridine was added 0.8 g. of ethyl isocyanate and the mixture was stirred at 100°C for 2 hours. After cooling, the mixture was poured into ice water and extracted with chloroform. The extract was washed with water, dried over anhydrous sodium sulfate and the solvent was distilled off to give a crystalline product, which was recrystallized from ethyl acetate-n-hexane to give 0.95 g. of the desired product as colorless crystals.

reactant | 5-hydroxymethyl-2-methyl-3-pyridinol hydrochloride | Cl.OCC=1C=C(C(=NC1)C)O
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-Ethylcarbamoyloxy-5-ethylcarbamoyloxymethyl-2-methylpyridine | C(C)NC(=O)OC=1C(=NC=C(C1)COC(NCC)=O)C | C13H19N3O4
